US07157487B2
In THF/methanol (2:1, v/v, 90 ml) was dissolved methyl (2-(5-fluoro-2-methylphenylamino)-7-fluoro-6-benzoxazolyl)acetate (810 mg, 2.44 mmol). To the resulting solution was added 1N NaOH (30 ml). After stirring at room temperature for 12 hours, the reaction mixture was distilled under reduced pressure to remove the solvent. The residue was acidified with 1N HCl. The crystals thus precipitated were collected by filtration under reduced pressure, washed with water and dried under reduced pressure to give (2-(5-fluoro-2-methylphenylamino)-7-fluoro-6-benzoxazolyl)acetic acid (700 mg, 90%) as a pale brown solid.

reactant | methyl (2-(5-fluoro-2-methylphenylamino)-7-fluoro-6-benzoxazolyl)acetate | 2.44 mmol, 810 mg | FC=1C=CC(=C(C1)NC=1OC2=C(N1)C=CC(=C2F)CC(=O)OC)C | C17H14F2N2O3
reactant | NaOH | 1N, 30 ml | [OH-].[Na+]
solvent | THF methanol | 90 ml | C1CCOC1.CO
product | (2-(5-fluoro-2-methylphenylamino)-7-fluoro-6-benzoxazolyl)acetic acid | 700 mg, 90% | FC=1C=CC(=C(C1)NC=1OC2=C(N1)C=CC(=C2F)CC(=O)O)C | C16H12F2N2O3
